US08735384B2
A mixture of 6-bromo-N-(4-methoxybenzyl)-3-morpholinoquinolin-2-amine (430 mg, 1.0 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (306 mg, 1.2 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium (36.7 mg, 0.050 mmol), potassium acetate (493 mg, 5.0 mmol), and DMF (7 mL) was heated in a microwave at 125° C. for 15 min. The mixture was diluted with EtOAc, washed with water (3×), dried on MgSO4 and concentrated in vacuo. This material was purified by silica flash chromatography (0-80% EtOAc/Hex, then 0-10% MeOH:DCM) to give N-(4-methoxybenzyl)-3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine.

reactant | 6-bromo-N-(4-methoxybenzyl)-3-morpholinoquinolin-2-amine | 1.0 mmol, 430 mg | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)N1CCOCC1 | C21H22BrN3O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.2 mmol, 306 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 5.0 mmol, 493 mg | C(C)(=O)[O-].[K+]
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium | 0.050 mmol, 36.7 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].[Pd]
product | N-(4-methoxybenzyl)-3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2N2CCOCC2)B2OC(C(O2)(C)C)(C)C)C=C1 | C27H34BN3O4
